US07754727B2
A. 4-Methoxy-3-(3-methoxy-propoxy)-benzaldehyde
To a solution of 3-hydroxy-4-methoxy-benzaldehyde (3.04 g, 20 mmol) and 3-methoxy-propanol (1.80 g, 20 mmol) in THF (150 mL) is added triphenylphosphine (5.24 g, 20 mmol) at room temperature under nitrogen atmosphere. To the stirring mixture is added diethyl azodicarboxylate (3.11 mL, 20 mmol) over 10 min at room temperature, and the resulting solution is further stirred over 20 h. THF is removed under reduced pressure and the remaining residue is purified by flash chromatography on silica gel (hexane/EtOAc 2/1) to afford the title compound: TLC, Rf (hexane/EtOAc 2/1)=0.2.

reactant | 3-hydroxy-4-methoxy-benzaldehyde | 20 mmol, 3.04 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | 3-methoxy-propanol | 20 mmol, 1.80 g | COCCCO | C4H10O2
reactant | triphenylphosphine | 20 mmol, 5.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 20 mmol, 3.11 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-Methoxy-3-(3-methoxy-propoxy)-benzaldehyde | COC1=C(C=C(C=O)C=C1)OCCCOC | C12H16O4
